US07834010B2
Preparation of intermediate N-(piperidin-4-yl)napth-1-yl carboxamide hydrochloride
A solution of N-(1-benzylpiperidin-4-yl)napth-1-yl carboxamide (1.38 g, 4.0 mmol) in dry CH2Cl2 (15 ml) was cooled to 0° C. and added α-chloroethyl chloroformate (1.14 g, 8.0 mmol) and stirred for 30 minutes. The mixture was evaporated in vacuo, added MeOH (15 ml) and heated under reflux for 1 h. The reaction mixture was evaporated in vacuo and the residue recrystallized from acetonitrile to give the product as a white powder (1.01 g, 86.8%).

reactant | N-(1-benzylpiperidin-4-yl)napth-1-yl carboxamide | 4.0 mmol, 1.38 g | C(C1=CC=CC=C1)N1CCC(CC1)NC(=O)C1=CC=CC2=CC=CC=C12 | C23H24N2O
reactant | α-chloroethyl chloroformate | 8.0 mmol, 1.14 g | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
product | N-(piperidin-4-yl)napth-1-yl carboxamide hydrochloride | 1.01 g, 86.8% | Cl.N1CCC(CC1)NC(=O)C1=CC=CC2=CC=CC=C12 | InChI=1S/C16H18N2O.ClH/c19-16(18-13-8-10-17-11-9-13)15-7-3-5-12-4-1-2-6-14(12)15;/h1-7,13,17H,8-11H2,(H,18,19);1H
